US08859773B2
Step 2: 2-chloroquinoline-7-carboxylic acid
To a solution of ethyl 2-chloroquinoline-7-carboxylate (800 mg, 3.4 mmol) in tetrahydrofuran (10 mL) was added 1 N aqueous lithium hydroxide (7 mL, 7 mmol). The reaction was stirred at room temperature overnight. The reaction was concentrated and the residue was diluted with water and acidified with 1 N aqueous hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to give the title compound (648 mg, 92%) as a white powder. +ESI (M+H) 208.1; 1H NMR (400 MHz, DMSO-d6, δ): 13.43 (s, 1H), 8.53 (d, J=8.7 Hz, 1H), 8.44-8.45 (m, 1H), 8.14 (d, J=8.4 Hz, 1H), 8.07-8.11 (m, 1H), 7.70 (d, J=8.5 Hz, 1H).

reactant | ethyl 2-chloroquinoline-7-carboxylate | 3.4 mmol, 800 mg | ClC1=NC2=CC(=CC=C2C=C1)C(=O)OCC | C12H10ClNO2
reactant | lithium hydroxide | 7 mmol, 1 N, 7 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-chloroquinoline-7-carboxylic acid | 648 mg, 92% | ClC1=NC2=CC(=CC=C2C=C1)C(=O)O | C10H6ClNO2
